US05594015
Potassium hydroxide (2.47 g, 44.0 mmol) was added to a suspension of 5-[(6-ethoxycarbonyloxy-2-naphthalenyl)thio]-2,4-thiazolidinedione (8.0 g, 22 mmol) in methanol (50 mL) at 25° C. After 30 minutes, the resulting solution was acidified to pH=1 with and then extracted with ethyl acetate (3×). The combined extracts were dried (magnesium sulfate) and concentrated to give 5-[(6-Hydroxyl-2-naphthalenyl)thio]-2,4-thiazolidinedione as a powder (6.4 g, 99% yield): mp 182°-183° C. (chloroform/ethyl acetate); 1H NMR (DMSO-d6, 400 MHz) δ6.07 (s, 1H CH). 7.1-8.0 (m, 6H, ArH). Analogue 35 was prepared similarly, with the use of 3 molar equivalents of potassium hydroxide.

reactant | Potassium hydroxide | 44.0 mmol, 2.47 g | [OH-].[K+]
reactant | 5-[(6-ethoxycarbonyloxy-2-naphthalenyl)thio]-2,4-thiazolidinedione | 22 mmol, 8.0 g | C(C)OC(=O)OC=1C=C2C=CC(=CC2=CC1)SC1C(NC(S1)=O)=O | C16H13NO5S2
solvent | methanol | 50 mL | CO | CH4O
product | 5-[(6-Hydroxyl-2-naphthalenyl)thio]-2,4-thiazolidinedione | 6.4 g, 99% yield | OC=1C=C2C=CC(=CC2=CC1)SC1C(NC(S1)=O)=O | C13H9NO3S2
